US07960369B2
3-[4-[[3-[benzyl(ethyl)amino]benzyl]oxy]phenyl]propanoic acid
A mixture of methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate (0.30 g, 0.86 mmol), benzyl(ethyl)amine (0.20 mL, 1.29 mmol), cesium carbonate (0.39 g, 1.20 mmol), tris(dibenzylidenacetone)dipalladium (0) (0.031 g, 0.034 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.032 g, 0.052 mmol) and toluene (6 mL) was stirred under a nitrogen atmosphere at 80° C. for 16 hrs. The reaction mixture was cooled, washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. Then the residue was dissolved in a mixed solution of methanol (4 mL) and tetrahydrofuran (6 mL), 1N aqueous sodium hydroxide solution (1.8 mL) was added, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was adjusted to pH 7 with 1N hydrochloric acid, and separated and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/2) to give the title compound (42 mg, yield 13%) as yellow crystals. MS (APCI−): 388 (M−H).

reactant | methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | 0.86 mmol, 0.30 g | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | benzyl(ethyl)amine | 1.29 mmol, 0.20 mL | C(C1=CC=CC=C1)NCC | C9H13N
reactant | cesium carbonate | 1.20 mmol, 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.052 mmol, 0.032 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[[3-[benzyl(ethyl)amino]benzyl]oxy]phenyl]propanoic acid | 42 mg, yield 13% | C(C1=CC=CC=C1)N(C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)CC | C25H27NO3
